US04193921
A solution of 55.1 mg of p-toluenesulphonyl chloride in 0.2 ml. of dry pyridine was added at 0° C. to a solution of 100 mg of (20S)-1α,3β-diacetoxy-21-hydroxy-20-methyl-pregn-5-ene in 0.5 ml. of dry pyridine. After standing at 0° C. for 6 hours, the mixture was poured on to ice-water and extracted with ether. The extract was washed successively with 2-N hydrochloric acid, water, saturated sodium bicarbonate solution and water. The residue obtained after drying over sodium sulphate and concentration was chromatographed on 3.5 g of silica gel using hexane/ether (4:1) for the elution, there being obtained 100 mg of uniform (20S)-1α,3β-diacetoxy-20-methyl-21-(p-toluene-sulphonyloxy)-pregn-5-ene. After recrystallisation from ether, the product melted at 168°-170° C.; [α]D =-20.8° (c=0.5 in chloroform).

reactant | p-toluenesulphonyl chloride | 55.1 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (20S)-1α,3β-diacetoxy-21-hydroxy-20-methyl-pregn-5-ene | 100 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H40O5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (20S)-1α,3β-diacetoxy-20-methyl-21-(p-toluene-sulphonyloxy)-pregn-5-ene | 100 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](COS(=O)(=O)C5=CC=C(C=C5)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C33H46O7S
